US09238658B2
4-(6-fluoroindolin-1-yl)-N-(5-(2-hydroxyacetyl)-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)piperidine-1-carboxamide (Compound ID #35)
To a solution of 4-(6-fluoroindolin-1-yl)-N-(4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)piperidine-1-carboxamide, prepared as in Example 19 above (77.3 mg, 0.15 mmol) in CH2Cl2 (2 mL) was added pyridine (0.035 mL, 0.45 mmol, 3 equiv) and then acetoxyacetyl chloride (0.024 mL, 0.225 mmol, 1.5 equiv) at room temperature. The resulting mixture was stirred for 20 min and MeOH (2 mL) and K2CO3 (138 mg, 1.0 mmol) were added sequentially. The resulting mixture was stirred at room temperature for another 1 h. The resulting mixture was filtered and concentrated. The resulting residue was purified by column using 90-100% EtOAc/hexane as the eluent to yield an off-white solid.

reactant | 4-(6-fluoroindolin-1-yl)-N-(4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)piperidine-1-carboxamide | FC1=CC=C2CCN(C2=C1)C1CCN(CC1)C(=O)NC=1SC=2CNCCC2N1 | C20H24FN5OS
reactant | pyridine | 0.45 mmol, 0.035 mL, 3 equiv | N1=CC=CC=C1 | C5H5N
reactant | acetoxyacetyl chloride | 0.225 mmol, 0.024 mL, 1.5 equiv | C(C)(=O)OCC(=O)Cl | C4H5ClO3
reactant | K2CO3 | 1.0 mmol, 138 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | 2 mL | CO | CH4O
product | 4-(6-fluoroindolin-1-yl)-N-(5-(2-hydroxyacetyl)-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)piperidine-1-carboxamide | FC1=CC=C2CCN(C2=C1)C1CCN(CC1)C(=O)NC=1SC=2CN(CCC2N1)C(CO)=O | C22H26FN5O3S
